* C:\Users\MBX\Desktop\Investigacion\Spice-LK-Model\Oscilador_test\Oscilador_coupled.asc
V1 Vdd 0 3.3
C1 Vdd g 23p
C2 g s 80p
R1 g s 1e50
R2 Vdd g 1e50
I1 s 0 0.395µ
C3 s 0 0.1µ
V2 in 0 1
XU1 in g fe_tanh Vc=0.20 Qo=14p K=2.62 tau=1e-5 off=-0.4 rp=1e50 cp=1e-15
XU2 g Vdd s transistor K=1100u lambda=0.1 Vt=0.7
C4 Vdd g1 23p
C5 g1 s1 80p
R3 g1 s1 1e50
R4 Vdd g1 1e50
I2 s1 0 0.4µ
C6 s1 0 0.1µ
XU3 in g1 fe_tanh Vc=0.20 Qo=14p K=2.62 tau=1e-5 off=-0.4 rp=1e50 cp=1e-15
XU4 g1 Vdd s1 transistor K=1100u lambda=0.1 Vt=0.7
C7 s1 s {cc}
C8 Vdd g2 23p
C9 g2 s2 80p
R5 g2 s2 1e50
R6 Vdd g2 1e50
I3 s2 0 0.405µ
C10 s2 0 0.1µ
XU5 in g2 fe_tanh Vc=0.20 Qo=14p K=2.62 tau=1e-5 off=-0.4 rp=1e50 cp=1e-15
XU6 g2 Vdd s2 transistor K=1100u lambda=0.1 Vt=0.7
C11 s2 s1 {cc}
C12 Vdd g3 23p
C13 g3 s3 80p
R7 g3 s3 1e50
R8 Vdd g3 1e50
I4 s3 0 0.403µ
C14 s3 0 0.1µ
XU7 in g3 fe_tanh Vc=0.20 Qo=14p K=2.62 tau=1e-5 off=-0.4 rp=1e50 cp=1e-15
XU8 g3 Vdd s3 transistor K=1100u lambda=0.1 Vt=0.7
C15 s3 s2 {cc}
C16 s3 s {cc}
.ic V(g)=0 V(s)=0 V(g1)=0 V(s1)=0 V(g2)=0 V(s2)=0 V(g3)=0 V(s3)=0
.tran 0 2 0 1e-6 startup
.param cc=0.02u
.lib C:\Users\MBX\Desktop\Investigacion\Spice-LK-Model\Oscilador_test\fe_tanh_ni.sp
.lib C:\Users\MBX\Desktop\Investigacion\Spice-LK-Model\Oscilador_test\transistor.sp
.backanno
.end
