* C:\Users\MBX\Desktop\Investigacion\Spice-LK-Model\Osciladores\Neuron_oscillator_coupled.asc
V1 Vdd 0 1
M1 i1r outr 0 0 MNMOS2
M2 Vdd i2r outr 0 MNMOS2
C1 i2r 0 0.4µ
I1 Vdd i1r 80µ
C3 Vdd i1r 1µ
C4 outr 0 2µ
M4 outr outr 0 0 MNMOS
XU1 i1r i2r fe_tanh Vc=0.32 Qo=0.3u K=4 tau=1e-3 off=0.0 rp=1e50 cp=1e-12
M3 i1 out 0 0 MNMOS2
M5 Vdd i2 out 0 MNMOS2
C2 i2 0 0.4µ
I2 Vdd i1 75µ
C5 Vdd i1 1µ
C6 out 0 2µ
M6 out out 0 0 MNMOS
XU2 i1 i2 fe_tanh Vc=0.32 Qo=0.3u K=4 tau=1e-3 off=0.0 rp=1e50 cp=1e-12
C7 out outr 1µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\MBX\AppData\Local\LTspice\lib\cmp\standard.mos
.model MNMOS NMOS (LEVEL=1 VT0=0.3 KP=520u W=10u L=5u LAMBDA=0.2)
.tran 0 2 0 1e-7 startup
.ic V( i1)=0 V(i2)=0 V( i1r)=0 V(i2r)=0
.model MNMOS2 NMOS (LEVEL=1 VT0=0.2 KP=120u W=120u L=5u LAMBDA=0.2)
.lib C:\Users\MBX\Desktop\Investigacion\Spice-LK-Model\Osciladores\fe_tanh_ni.sp
.backanno
.end
