* C:\Users\MBX\Desktop\Investigacion\Spice-LK-Model\coupled_oscillators\coupled_oscillators.asc
V1 Vdd 0 3.3
C1 Vdd g 23p
C2 g s 80p
R1 g s 1e50
R2 Vdd g 1e50
C3 s 0 0.08µ
V2 in 0 1
XU1 in g fe_tanh Vc=0.20 Qo=14p K=2.62 tau=1e-5 off=-0.4 rp=1e50 cp=1e-15
C4 Vdd g1 23p
C5 g1 s1 80p
R3 g1 s1 1e50
R4 Vdd g1 1e50
C6 s1 0 0.08µ
XU3 in g1 fe_tanh Vc=0.20 Qo=14p K=2.62 tau=1e-5 off=-0.4 rp=1e50 cp=1e-15
C7 s1 s {cc}
C8 Vdd g2 23p
C9 g2 s2 80p
R5 g2 s2 1e50
R6 Vdd g2 1e50
C10 s2 0 0.08µ
XU5 in g2 fe_tanh Vc=0.20 Qo=14p K=2.62 tau=1e-5 off=-0.4 rp=1e50 cp=1e-15
C11 s2 s1 {cc}
C12 Vdd g3 23p
C13 g3 s3 80p
R7 g3 s3 1e50
R8 Vdd g3 1e50
C14 s3 0 0.08µ
XU7 in g3 fe_tanh Vc=0.20 Qo=14p K=2.62 tau=1e-5 off=-0.4 rp=1e50 cp=1e-15
C15 s3 s2 {cc}
C16 s3 s {cc}
M5 Vdd g s s NMOS2
M6 Vdd g1 s1 s1 NMOS2
M7 Vdd g2 s2 s2 NMOS2
M8 Vdd g3 s3 s3 NMOS2
R9 s 0 10k
R10 s1 0 10.5k
R11 s2 0 10.2k
R12 s3 0 9.95k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\MBX\AppData\Local\LTspice\lib\cmp\standard.mos
.ic V(g)=0.1 V(s)=0 V(g1)=0.1 V(s1)=0 V(g2)=0.1 V(s2)=0 V(g3)=0.1 V(s3)=0
.tran 0 30m 0 1e-8 startup
.param cc=10n
.model NMOS2 NMOS (LEVEL=3 VTO=0.7 KP=1100u LAMBDA=0.1 W=120u L=5u TOX=10n RD=10 RS=5 CGSO=1n CGDO=1n CGBO=0 PHI=0.7 GAMMA=0.6 UO=600 VMAX=1e5 XJ=0.15u NFS=1e11 ETA=0.1 THETA=0.01)
.lib ./fe_tanh_ni.sp
.backanno
.end
